US07432260B2
[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-morpholin-4-yl-phenyl)-amine [2].
By condensation between 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone and N-(4-morpholin-4-yl-phenyl)-guanidine nitrate. Pale solid. 1H-NMR (CDCl3) δ: 2.69 (s, 3H, CH3), 2.70 (s, 3H, CH3), 3.14 (t, 4H, J=4.8 Hz, CH2), 3.72 (t, 4H, J=4.9 Hz, CH2), 6.89 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 6.95 (d, 2H, J=8.8 Hz, Ph-H), 6.98(br. s, 1H, NH), 7.53 (d, 2H, J=9.1 Hz, Ph-H), 8.38 (d, 1H, J=5.1 Hz, pyrimidinyl-H). MS (ESI+) m/z 368 [M+H]+ (C19H21N5OS requires 367.5).

reactant | 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone | CC1=C(SC(=N1)C)/C=C/C(=O)N(C)C | C10H14N2OS
reactant | N-(4-morpholin-4-yl-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].N1(CCOCC1)C1=CC=C(C=C1)NC(=N)N
product | [4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-morpholin-4-yl-phenyl)-amine | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCOCC1 | C19H21N5OS
